US04290947
(3S,4R)-1-(t-butyldimethylsilyl)3-[(R)-1-(t-butyldimethylsilyloxy)ethyl]-4-[3-(4-nitrobenzyl)oxycarbonyl-2-oxopropyl]azetidin-2-one (7.9 mmol) is dissolved in 160 ml of 9:1 (v/v) methanol-water and cooled to 0° C. Concentrated hydrochloric acid (2.75 ml) is added and the resulting solution is stirred at 0° C. for 15 min., then allowed to warm to room temperature. The solution is stirred at room temperature for 2.5 hrs, then diluted with ethyl acetate (200 ml) and washed with water, saturated aqueous sodium bicarbonate solution and brine, dried over magnesium sulfate and concentrated in vacuo to yield (3S,4R)-3-[(R)1-hydroxyethyl]-4-[3-(4-nitrobenzyl)oxycarbonyl-2-oxopropyl]-azetidin-2-one.

reactant | (3S,4R)-1-(t-butyldimethylsilyl)3-[(R)-1-(t-butyldimethylsilyloxy)ethyl]-4-[3-(4-nitrobenzyl)oxycarbonyl-2-oxopropyl]azetidin-2-one | 7.9 mmol | [Si](C)(C)(C(C)(C)C)N1C([C@@H]([C@H]1CC(CC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O | C28H46N2O7Si2
reactant | hydrochloric acid | 2.75 ml | Cl | ClH
solvent | methanol water | 160 ml | CO.O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | (3S,4R)-3-[(R)1-hydroxyethyl]-4-[3-(4-nitrobenzyl)oxycarbonyl-2-oxopropyl]-azetidin-2-one | O[C@H](C)[C@H]1C(N[C@@H]1CC(CC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C16H18N2O7
